US05874436
N-(t-butoxycarbonyl)-2-(4-hydroxyphenyl)-ethylamine
Tyramine (5.58 g, 40.7 mmol) was dissolved in 50 mL of THF at 5° C. Di-t-butyl dicarbonate (8.90 g, 40.8 mmol) in 25 mL of THF was added dropwise. The reaction was allowed to warm to ambient temperature overnight, then diluted with water, extracted three times with ethyl acetate, and the organic extracts dried over MgSO4 and concentrated in vacuo. The crude brown solid, 8.93 g (93%) was used as is.

reactant | Tyramine | 40.7 mmol, 5.58 g | NCCC1=CC=C(C=C1)O | C8H11NO
reactant | Di-t-butyl dicarbonate | 40.8 mmol, 8.90 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | N-(t-butoxycarbonyl)-2-(4-hydroxyphenyl)-ethylamine | C(C)(C)(C)OC(=O)NCCC1=CC=C(C=C1)O | C13H19NO3
